US07786120B2
tert-Butyl 4-(4-((E)-2-(5-bromo-2-methoxypyridin-3-yl)vinyl)phenyl)piperazine-1-carboxylate
To 5-bromo-2-methoxypyridine-3-carbaldehyde (1.5 g, 6.95 mmol) and diethyl (4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)methylphosphonate (2.39 g, 5.79 mmol) in anhydrous THF (50 mL) under nitrogen was added potassium tert-butoxide (1.30 g, 11.6 mmol) at rt over 5 min. After 3 h a further portion of the aldehyde (160 mg, 0.74 mmol) was added. After a further 30 min the reaction was concentrated and the residue purified by column chromatography (30% EtOAc in PE) to give the title compound (2.27 g, 83%) as a yellow oil. 1H NMR (CDCl3) 1.51 (9H, s), 3.24 (4H, t), 3.68 (4H, t), 4.00 (3H, s), 7.02 (2H, d), 7.11 (2H, m), 7.49 (2H, d), 7.89 (1H, s), 8.07 (1H, s).

reactant | 5-bromo-2-methoxypyridine-3-carbaldehyde | 6.95 mmol, 1.5 g | BrC=1C=C(C(=NC1)OC)C=O | C7H6BrNO2
reactant | diethyl (4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)methylphosphonate | 5.79 mmol, 2.39 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)CP(OCC)(OCC)=O | C20H33N2O5P
reactant | potassium tert-butoxide | 11.6 mmol, 1.30 g | CC(C)([O-])C.[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(4-((E)-2-(5-bromo-2-methoxypyridin-3-yl)vinyl)phenyl)piperazine-1-carboxylate | 2.27 g, 83% | BrC=1C=C(C(=NC1)OC)/C=C/C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C23H28BrN3O3
